* blc_le - lumped-element equivalent (Ngspice / SPICE3)
* generated by snp2le
* EQUIVALENT CIRCUIT FOR VECTOR FITTED S-MATRIX
* Created using scikit-rf vectorFitting.py
* 
* 
.SUBCKT blc_le p1 p2 p3 p4
V1 p1 s1 0
R1 s1 0 50
Gd1_1 0 s1 p1 0 -0.00135903038
Fd1_1 0 s1 V1 -0.06795151899
Gr1_re_1_1 0 s1 x1_re_a1 0 -466102.2317
Gr1_im_1_1 0 s1 x1_im_a1 0 -83272.7305
Gr2_re_1_1 0 s1 x2_re_a1 0 139727.8544
Gr2_im_1_1 0 s1 x2_im_a1 0 -492632.0781
Gr3_re_1_1 0 s1 x3_re_a1 0 337054.193
Gr3_im_1_1 0 s1 x3_im_a1 0 -240793.1822
Gd1_2 0 s1 p2 0 0.001064045615
Fd1_2 0 s1 V2 0.05320228073
Gr1_re_1_2 0 s1 x1_re_a2 0 -285620.5483
Gr1_im_1_2 0 s1 x1_im_a2 0 -281808.9666
Gr2_re_1_2 0 s1 x2_re_a2 0 264463.2381
Gr2_im_1_2 0 s1 x2_im_a2 0 -6580.419213
Gr3_re_1_2 0 s1 x3_re_a2 0 96732.57859
Gr3_im_1_2 0 s1 x3_im_a2 0 -564472.4499
Gd1_3 0 s1 p3 0 -0.0008051656617
Fd1_3 0 s1 V3 -0.04025828309
Gr1_re_1_3 0 s1 x1_re_a3 0 242930.7388
Gr1_im_1_3 0 s1 x1_im_a3 0 -233454.3812
Gr2_re_1_3 0 s1 x2_re_a3 0 -157092.2518
Gr2_im_1_3 0 s1 x2_im_a3 0 636552.9974
Gr3_re_1_3 0 s1 x3_re_a3 0 -304552.5846
Gr3_im_1_3 0 s1 x3_im_a3 0 216608.6521
Gd1_4 0 s1 p4 0 -0.003097367713
Fd1_4 0 s1 V4 -0.1548683856
Gr1_re_1_4 0 s1 x1_re_a4 0 165199.8513
Gr1_im_1_4 0 s1 x1_im_a4 0 -157622.1514
Gr2_re_1_4 0 s1 x2_re_a4 0 -184383.0743
Gr2_im_1_4 0 s1 x2_im_a4 0 -417784.8992
Gr3_re_1_4 0 s1 x3_re_a4 0 -136337.8753
Gr3_im_1_4 0 s1 x3_im_a4 0 464043.5166
Cx1_re_a1 x1_re_a1 0 1.399967176e-12
Gx1_re_a1 0 x1_re_a1 p1 0 8.64148994e-08
Fx1_re_a1 0 x1_re_a1 V1 4.32074497e-06
Rp1_re_re_a1 0 x1_re_a1 1
Gp1_re_im_a1 0 x1_re_a1 x1_im_a1 0 0.8303098165
Cx1_im_a1 x1_im_a1 0 1.399967176e-12
Gp1_im_re_a1 0 x1_im_a1 x1_re_a1 0 -0.8303098165
Rp1_im_im_a1 0 x1_im_a1 1
Cx2_re_a1 x2_re_a1 0 2.57107262e-12
Gx2_re_a1 0 x2_re_a1 p1 0 4.388162734e-08
Fx2_re_a1 0 x2_re_a1 V1 2.194081367e-06
Rp2_re_re_a1 0 x2_re_a1 1
Gp2_re_im_a1 0 x2_re_a1 x2_im_a1 0 3.399325538
Cx2_im_a1 x2_im_a1 0 2.57107262e-12
Gp2_im_re_a1 0 x2_im_a1 x2_re_a1 0 -3.399325538
Rp2_im_im_a1 0 x2_im_a1 1
Cx3_re_a1 x3_re_a1 0 3.025545542e-12
Gx3_re_a1 0 x3_re_a1 p1 0 5.941551856e-08
Fx3_re_a1 0 x3_re_a1 V1 2.970775928e-06
Rp3_re_re_a1 0 x3_re_a1 1
Gp3_re_im_a1 0 x3_re_a1 x3_im_a1 0 3.14158227
Cx3_im_a1 x3_im_a1 0 3.025545542e-12
Gp3_im_re_a1 0 x3_im_a1 x3_re_a1 0 -3.14158227
Rp3_im_im_a1 0 x3_im_a1 1
V2 p2 s2 0
R2 s2 0 50
Gd2_1 0 s2 p1 0 0.001064045615
Fd2_1 0 s2 V1 0.05320228073
Gr1_re_2_1 0 s2 x1_re_a1 0 -285591.5534
Gr1_im_2_1 0 s2 x1_im_a1 0 -281780.3587
Gr2_re_2_1 0 s2 x2_re_a1 0 264437.6133
Gr2_im_2_1 0 s2 x2_im_a1 0 -6579.781614
Gr3_re_2_1 0 s2 x3_re_a1 0 96758.5951
Gr3_im_2_1 0 s2 x3_im_a1 0 -564624.2664
Gd2_2 0 s2 p2 0 -0.001381903954
Fd2_2 0 s2 V2 -0.06909519769
Gr1_re_2_2 0 s2 x1_re_a2 0 -465960.2966
Gr1_im_2_2 0 s2 x1_im_a2 0 -83633.17032
Gr2_re_2_2 0 s2 x2_re_a2 0 140394.0558
Gr2_im_2_2 0 s2 x2_im_a2 0 -491939.6217
Gr3_re_2_2 0 s2 x3_re_a2 0 337326.2213
Gr3_im_2_2 0 s2 x3_im_a2 0 -241020.3868
Gd2_3 0 s2 p3 0 -0.003102014532
Fd2_3 0 s2 V3 -0.1551007266
Gr1_re_2_3 0 s2 x1_re_a3 0 165616.6343
Gr1_im_2_3 0 s2 x1_im_a3 0 -157414.7723
Gr2_re_2_3 0 s2 x2_re_a3 0 -184005.9377
Gr2_im_2_3 0 s2 x2_im_a3 0 -417114.5742
Gr3_re_2_3 0 s2 x3_re_a3 0 -136864.5119
Gr3_im_2_3 0 s2 x3_im_a3 0 463725.1091
Gd2_4 0 s2 p4 0 -0.000806179973
Fd2_4 0 s2 V4 -0.04030899865
Gr1_re_2_4 0 s2 x1_re_a4 0 242988.2341
Gr1_im_2_4 0 s2 x1_im_a4 0 -233336.4933
Gr2_re_2_4 0 s2 x2_re_a4 0 -157196.6332
Gr2_im_2_4 0 s2 x2_im_a4 0 636367.9819
Gr3_re_2_4 0 s2 x3_re_a4 0 -304715.1237
Gr3_im_2_4 0 s2 x3_im_a4 0 216895.6531
Cx1_re_a2 x1_re_a2 0 1.399967176e-12
Gx1_re_a2 0 x1_re_a2 p2 0 8.640612696e-08
Fx1_re_a2 0 x1_re_a2 V2 4.320306348e-06
Rp1_re_re_a2 0 x1_re_a2 1
Gp1_re_im_a2 0 x1_re_a2 x1_im_a2 0 0.8303098165
Cx1_im_a2 x1_im_a2 0 1.399967176e-12
Gp1_im_re_a2 0 x1_im_a2 x1_re_a2 0 -0.8303098165
Rp1_im_im_a2 0 x1_im_a2 1
Cx2_re_a2 x2_re_a2 0 2.57107262e-12
Gx2_re_a2 0 x2_re_a2 p2 0 4.38773755e-08
Fx2_re_a2 0 x2_re_a2 V2 2.193868775e-06
Rp2_re_re_a2 0 x2_re_a2 1
Gp2_re_im_a2 0 x2_re_a2 x2_im_a2 0 3.399325538
Cx2_im_a2 x2_im_a2 0 2.57107262e-12
Gp2_im_re_a2 0 x2_im_a2 x2_re_a2 0 -3.399325538
Rp2_im_im_a2 0 x2_im_a2 1
Cx3_re_a2 x3_re_a2 0 3.025545542e-12
Gx3_re_a2 0 x3_re_a2 p2 0 5.943149853e-08
Fx3_re_a2 0 x3_re_a2 V2 2.971574927e-06
Rp3_re_re_a2 0 x3_re_a2 1
Gp3_re_im_a2 0 x3_re_a2 x3_im_a2 0 3.14158227
Cx3_im_a2 x3_im_a2 0 3.025545542e-12
Gp3_im_re_a2 0 x3_im_a2 x3_re_a2 0 -3.14158227
Rp3_im_im_a2 0 x3_im_a2 1
V3 p3 s3 0
R3 s3 0 50
Gd3_1 0 s3 p1 0 -0.0008051656617
Fd3_1 0 s3 V1 -0.04025828309
Gr1_re_3_1 0 s3 x1_re_a1 0 242851.8853
Gr1_im_3_1 0 s3 x1_im_a1 0 -233378.6037
Gr2_re_3_1 0 s3 x2_re_a1 0 -157068.5556
Gr2_im_3_1 0 s3 x2_im_a1 0 636456.9783
Gr3_re_3_1 0 s3 x3_re_a1 0 -304555.9159
Gr3_im_3_1 0 s3 x3_im_a1 0 216611.0215
Gd3_2 0 s3 p2 0 -0.003102014532
Fd3_2 0 s3 V2 -0.1551007266
Gr1_re_3_2 0 s3 x1_re_a2 0 165579.6853
Gr1_im_3_2 0 s3 x1_im_a2 0 -157379.6531
Gr2_re_3_2 0 s3 x2_re_a2 0 -183996.0098
Gr2_im_3_2 0 s3 x2_im_a2 0 -417092.0692
Gr3_re_3_2 0 s3 x3_re_a2 0 -136829.2083
Gr3_im_3_2 0 s3 x3_im_a2 0 463605.4935
Gd3_3 0 s3 p3 0 -0.001386687845
Fd3_3 0 s3 V3 -0.06933439225
Gr1_re_3_3 0 s3 x1_re_a3 0 -465779.7224
Gr1_im_3_3 0 s3 x1_im_a3 0 -83576.41544
Gr2_re_3_3 0 s3 x2_re_a3 0 140354.2555
Gr2_im_3_3 0 s3 x2_im_a3 0 -492058.495
Gr3_re_3_3 0 s3 x3_re_a3 0 337142.2429
Gr3_im_3_3 0 s3 x3_im_a3 0 -240684.2165
Gd3_4 0 s3 p4 0 0.001062511921
Fd3_4 0 s3 V4 0.05312559605
Gr1_re_3_4 0 s3 x1_re_a4 0 -285453.3252
Gr1_im_3_4 0 s3 x1_im_a4 0 -281728.9258
Gr2_re_3_4 0 s3 x2_re_a4 0 264343.5794
Gr2_im_3_4 0 s3 x2_im_a4 0 -6506.818037
Gr3_re_3_4 0 s3 x3_re_a4 0 96713.70134
Gr3_im_3_4 0 s3 x3_im_a4 0 -564554.6605
Cx1_re_a3 x1_re_a3 0 1.399967176e-12
Gx1_re_a3 0 x1_re_a3 p3 0 8.638684979e-08
Fx1_re_a3 0 x1_re_a3 V3 4.31934249e-06
Rp1_re_re_a3 0 x1_re_a3 1
Gp1_re_im_a3 0 x1_re_a3 x1_im_a3 0 0.8303098165
Cx1_im_a3 x1_im_a3 0 1.399967176e-12
Gp1_im_re_a3 0 x1_im_a3 x1_re_a3 0 -0.8303098165
Rp1_im_im_a3 0 x1_im_a3 1
Cx2_re_a3 x2_re_a3 0 2.57107262e-12
Gx2_re_a3 0 x2_re_a3 p3 0 4.387500813e-08
Fx2_re_a3 0 x2_re_a3 V3 2.193750407e-06
Rp2_re_re_a3 0 x2_re_a3 1
Gp2_re_im_a3 0 x2_re_a3 x2_im_a3 0 3.399325538
Cx2_im_a3 x2_im_a3 0 2.57107262e-12
Gp2_im_re_a3 0 x2_im_a3 x2_re_a3 0 -3.399325538
Rp2_im_im_a3 0 x2_im_a3 1
Cx3_re_a3 x3_re_a3 0 3.025545542e-12
Gx3_re_a3 0 x3_re_a3 p3 0 5.941616847e-08
Fx3_re_a3 0 x3_re_a3 V3 2.970808424e-06
Rp3_re_re_a3 0 x3_re_a3 1
Gp3_re_im_a3 0 x3_re_a3 x3_im_a3 0 3.14158227
Cx3_im_a3 x3_im_a3 0 3.025545542e-12
Gp3_im_re_a3 0 x3_im_a3 x3_re_a3 0 -3.14158227
Rp3_im_im_a3 0 x3_im_a3 1
V4 p4 s4 0
R4 s4 0 50
Gd4_1 0 s4 p1 0 -0.003097367713
Fd4_1 0 s4 V1 -0.1548683856
Gr1_re_4_1 0 s4 x1_re_a1 0 165183.4606
Gr1_im_4_1 0 s4 x1_im_a1 0 -157606.5126
Gr2_re_4_1 0 s4 x2_re_a1 0 -184337.3987
Gr2_im_4_1 0 s4 x2_im_a1 0 -417681.4051
Gr3_re_4_1 0 s4 x3_re_a1 0 -136323.5472
Gr3_im_4_1 0 s4 x3_im_a1 0 463994.749
Gd4_2 0 s4 p2 0 -0.000806179973
Fd4_2 0 s4 V2 -0.04030899865
Gr1_re_4_2 0 s4 x1_re_a2 0 242988.7926
Gr1_im_4_2 0 s4 x1_im_a2 0 -233337.0296
Gr2_re_4_2 0 s4 x2_re_a2 0 -157172.9213
Gr2_im_4_2 0 s4 x2_im_a2 0 636271.9906
Gr3_re_4_2 0 s4 x3_re_a2 0 -304601.177
Gr3_im_4_2 0 s4 x3_im_a2 0 216814.546
Gd4_3 0 s4 p3 0 0.001062511921
Fd4_3 0 s4 V3 0.05312559605
Gr1_re_4_3 0 s4 x1_re_a3 0 -285517.6802
Gr1_im_4_3 0 s4 x1_im_a3 0 -281792.4411
Gr2_re_4_3 0 s4 x2_re_a3 0 264317.9662
Gr2_im_4_3 0 s4 x2_im_a3 0 -6506.18757
Gr3_re_4_3 0 s4 x3_re_a3 0 96702.47966
Gr3_im_4_3 0 s4 x3_im_a3 0 -564489.1552
Gd4_4 0 s4 p4 0 -0.001363340479
Fd4_4 0 s4 V4 -0.06816702393
Gr1_re_4_4 0 s4 x1_re_a4 0 -466094.8212
Gr1_im_4_4 0 s4 x1_im_a4 0 -83323.20516
Gr2_re_4_4 0 s4 x2_re_a4 0 139878.9486
Gr2_im_4_4 0 s4 x2_im_a4 0 -492556.4969
Gr3_re_4_4 0 s4 x3_re_a4 0 337024.9008
Gr3_im_4_4 0 s4 x3_im_a4 0 -240954.8045
Cx1_re_a4 x1_re_a4 0 1.399967176e-12
Gx1_re_a4 0 x1_re_a4 p4 0 8.640632557e-08
Fx1_re_a4 0 x1_re_a4 V4 4.320316278e-06
Rp1_re_re_a4 0 x1_re_a4 1
Gp1_re_im_a4 0 x1_re_a4 x1_im_a4 0 0.8303098165
Cx1_im_a4 x1_im_a4 0 1.399967176e-12
Gp1_im_re_a4 0 x1_im_a4 x1_re_a4 0 -0.8303098165
Rp1_im_im_a4 0 x1_im_a4 1
Cx2_re_a4 x2_re_a4 0 2.57107262e-12
Gx2_re_a4 0 x2_re_a4 p4 0 4.387075693e-08
Fx2_re_a4 0 x2_re_a4 V4 2.193537847e-06
Rp2_re_re_a4 0 x2_re_a4 1
Gp2_re_im_a4 0 x2_re_a4 x2_im_a4 0 3.399325538
Cx2_im_a4 x2_im_a4 0 2.57107262e-12
Gp2_im_re_a4 0 x2_im_a4 x2_re_a4 0 -3.399325538
Rp2_im_im_a4 0 x2_im_a4 1
Cx3_re_a4 x3_re_a4 0 3.025545542e-12
Gx3_re_a4 0 x3_re_a4 p4 0 5.940927442e-08
Fx3_re_a4 0 x3_re_a4 V4 2.970463721e-06
Rp3_re_re_a4 0 x3_re_a4 1
Gp3_re_im_a4 0 x3_re_a4 x3_im_a4 0 3.14158227
Cx3_im_a4 x3_im_a4 0 3.025545542e-12
Gp3_im_re_a4 0 x3_im_a4 x3_re_a4 0 -3.14158227
Rp3_im_im_a4 0 x3_im_a4 1
.ENDS blc_le
